US06403639B1
0.70 g of 3-t-butyl-4-trimethylacetoxyphenol was dissolved in 7 ml of dimethylformamide and the solution was added dropwise into a suspension of 0.13 g of oily sodium hydride in 7 ml of dimethylformamide at 0° C. under a nitrogen stream. After stirring for 30 minutes, 0.50 ml of bromoacetaldehyde diethylacetal was added dropwise and the solution was stirred overnight and allowed to attain room temperature. After the reaction was quenched with a saturated aqueous ammonium chloride solution, the reaction mixture was extracted with water and ethyl acetate and the organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 1%-5% ethyl acetate) to give 0.21 g of 3-t-butyl-1-(2,2-diethoxyethoxy)-4-trimethylacetoxybenzene as a white solid (yield 21%).

reactant | 3-t-butyl-4-trimethylacetoxyphenol | 0.70 g | C(C)(C)(C)C=1C=C(C=CC1OC(C(C)(C)C)=O)O | C15H22O3
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | bromoacetaldehyde diethylacetal | 0.50 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 3-t-butyl-1-(2,2-diethoxyethoxy)-4-trimethylacetoxybenzene | 0.21 g, yield 21% | C(C)(C)(C)C=1C=C(C=CC1OC(C(C)(C)C)=O)OCC(OCC)OCC | C21H34O5
